US04118393
1-p-Chlorophenyl-3-azabicyclo[3.1.0]hexan-2-one
To a stirred solution of 3.0 ml of sodium bis(2-methoxyethoxy)aluminum hydride is added dropwise a solution of 2.2 g of 1-(p-chlorophenyl)-1,2-cyclopropanedicarboximide (U.S. Pat. No. 3,344,026) in 200 ml of benzene, over a 45 minute period, at room temperature, under nitrogen. The mixture is refluxed under nitrogen for one hour. After cooling, 4 ml of 5N sodium hydroxide is added to decompose any excess hydride and the mixture is diluted with 200 ml of water. The benzene phase is separated. The aqueous phase is extracted with ether. The ether and benzene phases are combined, dried over magnesium sulfate and concentrated under reduced pressure to give a white glass which is recrystallized from benzene-hexane to give the product as a white solid, mp 132°-137 ° C. (dec).

reactant | sodium bis(2-methoxyethoxy)aluminum hydride | 3.0 ml | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | 1-(p-chlorophenyl)-1,2-cyclopropanedicarboximide | 2.2 g | C1C2C1(C(=O)NC2=O)C3=CC=C(C=C3)Cl | C11H8ClNO2
reactant | sodium hydroxide | 5N, 4 ml | [OH-].[Na+]
reactant | hydride | [H-]
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | water | 200 ml | O | H2O
product | 1-p-Chlorophenyl-3-azabicyclo[3.1.0]hexan-2-one | ClC1=CC=C(C=C1)C12C(NCC2C1)=O | C11H10ClNO
